US06369088B2
5-Methoxy-3-(4-dimethylamino-3-methylphenyl)-3H-(1,3,4)oxad iazol-2-one
The latter compound was obtained by reacting 5-methoxy-3-(4-amino-3-methylphenyl)-3H-(1,3,4)oxadiazol-2-one with paraformaldehyde/formic acid in DMF at room temperature and was purified by column chromatography (silica gel, ethyl acetate:n-heptane=1:1).

reactant | 5-methoxy-3-(4-amino-3-methylphenyl)-3H-(1,3,4)oxadiazol-2-one | COC1=NN(C(O1)=O)C1=CC(=C(C=C1)N)C | C10H11N3O3
reactant | paraformaldehyde formic acid | C=O.C(=O)O
reactant | DMF | CN(C)C=O | C3H7NO
product | 5-Methoxy-3-(4-dimethylamino-3-methylphenyl)-3H-(1,3,4)oxad iazol-2-one | COC1=NN(C(O1)=O)C1=CC(=C(C=C1)N(C)C)C | C12H15N3O3
